US08486970B2
To 400 mg of (3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(mesyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxylic acid were added 8 ml of DMF, 243 mg of O-[3-(tetrahydro-2H-pyran-2-yl oxy)benzyl]hydroxylamine, 159 mg of HOBt, and 243 mg of WSC, followed by stifling at room temperature for 3 hours. The reaction solution was added with ethyl acetate and water to carry out a liquid separation operation, and the organic layer was washed with a saturated aqueous sodium hydrogen carbonate solution and a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then evaporated under reduced pressure. To the residue was added methanol, and concentrated hydrochloric acid was added dropwise thereto under ice-cooling, followed by stirring under ice-cooling for 1 hour. The precipitated crystal was collected by filtration to obtain 275 mg of (3RS,4RS)-3-(2,4-dichlorophenyl)-N-[(3-hydroxybenzyl)oxy]-2-{(1SR,2SR)-2-Rmesyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide as a white crystal.

reactant | (3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(mesyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxylic acid | 400 mg | ClC1=C(C=CC(=C1)Cl)C1N(C(C2=CC=CC=C2C1C(=O)O)=O)C1C(CCCC1)NS(=O)(=O)C | C23H24Cl2N2O5S
reactant | O-[3-(tetrahydro-2H-pyran-2-yl oxy)benzyl]hydroxylamine | 243 mg | O1C(CCCC1)OC=1C=C(CON)C=CC1 | C12H17NO3
reactant | HOBt | 159 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 243 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | O=C1NCC(C2=CC=CC=C12)C(=O)N | C10H10N2O2
